US05929098
In a 300 mL three-necked, round-bottomed flask fitted with a magnetic stirrer, condenser equipped with nitrogen inlet, and thermometer were placed 5.68 (25 mmole) of methyl 4-amino-3-methylbenzoate and 35 mL of acetonitrile. The flask was immersed in a preheated oil bath (oil bath temperature 70° C.) and 5.15 g (37.8 mmole) of N-chlorosuccinimide was added all at once. The resulting mixture was refluxed for 2 hours then cooled to room temperature to stand overnight. The reaction mixture was concentrated by removing solvent using a rotary evaporator and the resulting residue was partitioned between a mixture of 100 ml of ethyl ether and 100 ml of water. The organic layer was dried over anhydrous magnesium sulfate and the solvent was removed using a rotary evaporator, yielding 6.05 g methyl 4-amino-3-chloro-5-methylbenzoate.

reactant | methyl 4-amino-3-methylbenzoate | NC1=C(C=C(C(=O)OC)C=C1)C | C9H11NO2
reactant | N-chlorosuccinimide | 37.8 mmole, 5.15 g | ClN1C(CCC1=O)=O | C4H4ClNO2
solvent | acetonitrile | 35 mL | C(C)#N | C2H3N
product | methyl 4-amino-3-chloro-5-methylbenzoate | 6.05 g | NC1=C(C=C(C(=O)OC)C=C1C)Cl | C9H10ClNO2
